US08541575B2
N-(3-{4-[2-(ethylamino)pyrimidin-4-yl]-1H-pyrazol-3-yl}phenyl)-2,5-difluorobenzenesulfonamide
450 mg (0.78 mmol) of N-(3-{4-[2-(ethylamino)pyrimidin-4-yl]-1-(4-methoxybenzyl)-1H-pyrazol-3-yl}phenyl)-2,5-difluorobenzenesulfonamide were dissolved in 10 ml of trifluoroacetic acid and the resulting solution heated at 70° C. under stirring for 4 hours. After this time the solvent was evaporated and the residue taken up with dichloromethane and washed with aqueous sodium hydrogenocarbonate. The organic phase was then dried over sodium sulphate and evaporated again. The crude was finally purified by flash-chromatography on a silica gel column (CH2Cl2-CH3COCH3; from 9/1 to 8/2), giving 80 mg (22%) of the title compound.

reactant | N-(3-{4-[2-(ethylamino)pyrimidin-4-yl]-1-(4-methoxybenzyl)-1H-pyrazol-3-yl}phenyl)-2,5-difluorobenzenesulfonamide | 0.78 mmol, 450 mg | C(C)NC1=NC=CC(=N1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C29H26F2N6O3S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(3-{4-[2-(ethylamino)pyrimidin-4-yl]-1H-pyrazol-3-yl}phenyl)-2,5-difluorobenzenesulfonamide | 80 mg, 22% | C(C)NC1=NC=CC(=N1)C=1C(=NNC1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C21H18F2N6O2S
